US08258294B2
Med. Chem. 1984, 27, 196-201 describes a process wherein 5-amino-1H-imidazole-4-carboxamide is converted into 5-diazo-1H-imidazole-4-carboxamide, which is then cyclised with methylisocyanate in dichloromethane to provide a high yield of temozolomide.

reactant | 5-amino-1H-imidazole-4-carboxamide | NC1=C(N=CN1)C(=O)N | C4H6N4O
reactant | 5-diazo-1H-imidazole-4-carboxamide | [N+](=[N-])=C1C(=NCN1)C(=O)N | C4H5N5O
reactant | methylisocyanate | CN=C=O | C2H3NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | temozolomide | CN1C(=O)N2C=NC(=C2N=N1)C(=O)N | C6H6N6O2
